US05041436
Stage A: 5-[4-(1-Azacyclooctyl)benzenesulphonylamino]valeric acid
4.5 g of 4-azacyclooctylbenzenesulphonyl chloride are added to a solution comprising 1.82 g of 5-aminovaleric acid and 1.87 g of sodium hydroxide dissolved in 45 cm3 of water, followed by the addition of 45 cm3 of tetrahydrofuran in order to obtain a solution. The mixture is kept stirred for 2 hours at room temperature, the tetrahydrofuran is evaporated off, the reaction medium is acidified using acetic acid, the precipitate is filtered off, washed with water and dried and 3.6 g of expected product are obtained. M.p. 149°-150° C. After crystallization in an isopropanol/water mixture (1:1), the product, melting point 153°-154° C., is obtained.

reactant | 4-azacyclooctylbenzenesulphonyl chloride | 4.5 g | C1(CCNCCCC1)C1=C(C=CC=C1)S(=O)(=O)Cl | C13H18ClNO2S
reactant | 5-aminovaleric acid | 1.82 g | NCCCCC(=O)O | C5H11NO2
reactant | sodium hydroxide | 1.87 g | [OH-].[Na+]
reactant | tetrahydrofuran | 45 cm3 | O1CCCC1 | C4H8O
solvent | water | 45 cm3 | O | H2O
product | 5-[4-(1-Azacyclooctyl)benzenesulphonylamino]valeric acid | 3.6 g | N1(CCCCCCC1)C1=CC=C(C=C1)S(=O)(=O)NCCCCC(=O)O | C18H28N2O4S
